US05677464
(2R) -2-[3-[4-(2,2,3,3-Tetrafluoropropoxy)phenyl]-2,3-dihydro-2-oxo-1H-imidazol-1-yl]propanoic acid (1.5 g) and 3.8 ml of oxalyl chloride were added to 30 ml of dichloromethane, to which dimethylformamide (7 drops ) was added dropwise at room temperature. After the reaction solution was stirred at room temperature for 2 hours, the solvent was distilled off under reduced pressure to give 1.5 g of (2R)-2-[3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2,3-dihydro-2-oxo-1H-imidazol-1-yl]propanoyl chloride as a pale yellow oil. This product was used for the next step without purification.

reactant | (2R) -2-[3-[4-(2,2,3,3-Tetrafluoropropoxy)phenyl]-2,3-dihydro-2-oxo-1H-imidazol-1-yl]propanoic acid | 1.5 g | FC(COC1=CC=C(C=C1)N1C(N(C=C1)[C@@H](C(=O)O)C)=O)(C(F)F)F | C15H14F4N2O4
reactant | oxalyl chloride | 3.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | dimethylformamide | 7 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (2R)-2-[3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2,3-dihydro-2-oxo-1H-imidazol-1-yl]propanoyl chloride | 1.5 g | FC(COC1=CC=C(C=C1)N1C(N(C=C1)[C@@H](C(=O)Cl)C)=O)(C(F)F)F | C15H13ClF4N2O3
